US04695567
7,7-Dimethyl-2-(2-thienyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one.
A solution of 3.8 g. (20 mmol) 5,6-diamino-3,3-dimethylindolin-2-one, 2.25 g. (20 mmol) thiophene-2-aldehyde and 4 ml. glacial acetic acid in 40 ml. ethanol is heated under reflux for 1 hour and then further boiled for 1 hour, while passing through air. The reaction mixture is then distilled to dryness and the residue stirred up with ethyl acetate and filtered off with suction. The crystallisate obtained is recrystallised from acetone. Yield: 1.7 g. (30% of theory); m.p. 332°-336° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 20 mmol | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | thiophene-2-aldehyde | 20 mmol | S1C(=CC=C1)C=O | C5H4OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 7,7-Dimethyl-2-(2-thienyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C=3SC=CC3)C=C21)=O)C | C15H13N3OS
